US08754229B2
Preparation of methyl 4-amino-6-(4-chloro-2-fluoro-3-(1-fluoroethyl)phenyl)-5-fluoro-3-methoxypicolinate (Compound 33)
Methyl 4-amino-6-chloro-5-fluoro-3-methoxypicolinate (0.400 g, 1.705 mmol), 2-(4-chloro-2-fluoro-3-(1-fluoroethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (prepared as described in WO2009029735 A1 20090305; 0.671 g, 2.216 mmol), PdCl2(PPh3)2 (0.120 g, 0.170 mmol), and KF (0.258 g, 4.43 mmol) were combined in a 1:1 mixture of CH3CN (2.84 mL) and H2O (2.84 mL). The reaction mixture was irradiated in a Biotage microwave at 115° C. in a sealed vial for 20 min. The cooled reaction mixture was partitioned between EtOAc and H2O. The organic phase was dried and concentrated. The product was purified by flash chromatography (SiO2, 5-40% EtOAc in hexane gradient) to provide the title compound as a sticky brown-orange solid (0.545 g, 81%): 1H NMR (400 MHz, CDCl3) δ 7.53-7.46 (m, 1H), 7.29 (dt, J=8.4, 1.1 Hz, 1H), 6.39-6.03 (m, 1H), 4.61 (s, 2H), 3.97 (d, J=2.1 Hz, 6H), 1.85-1.68 (m, 3H); 19F NMR (376 MHz, CDCl3) δ −113.81, −113.87, −113.90, −113.95, −137.05, −137.14, −175.47, −175.52; ESIMS m/z 375 ([M+H]+), 373 ([M−H]−).

reactant | Methyl 4-amino-6-chloro-5-fluoro-3-methoxypicolinate | 1.705 mmol, 0.400 g | NC1=C(C(=NC(=C1F)Cl)C(=O)OC)OC | C8H8ClFN2O3
reactant | 2-(4-chloro-2-fluoro-3-(1-fluoroethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | ClC1=C(C(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F)C(C)F | C14H18BClF2O2
reactant | KF | 4.43 mmol, 0.258 g | [F-].[K+]
reactant | CH3CN | 2.84 mL | CC#N | C2H3N
catalyst | PdCl2(PPh3)2 | 0.170 mmol, 0.120 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | H2O | 2.84 mL | O | H2O
product | methyl 4-amino-6-(4-chloro-2-fluoro-3-(1-fluoroethyl)phenyl)-5-fluoro-3-methoxypicolinate | 0.545 g, 81% | NC1=C(C(=NC(=C1F)C1=C(C(=C(C=C1)Cl)C(C)F)F)C(=O)OC)OC | C16H14ClF3N2O3
